US07977344B2
2-[(Cyclohexylmethyl)oxy]-8-(methoxy)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine
2-[(Cyclohexylmethyl)oxy]-8-(methoxy)-9H-purin-6-amine trifluoroacetate salt (0.28 g) was heated with anhydrous potassium carbonate (0.3957 g) in anhydrous DMF (5 mL) under nitrogen for 1 hour at 60° C. (external). The reaction mixture was cooled to room temperature before adding 4-(bromomethyl) tetrahydro-2H-pyran (0.14 g) in anhydrous DMF (1 mL). The reaction mixture was heated to 50° C., overnight. The reaction mixture was quenched into water (20 mL) and extracted into ethyl acetate (20 mL, 3 times). The organic layers was separated, combined and then washed with brine (20 mL). The organic layer was separated and then dried by passing through a hydrophobic frit. Evaporation under reduced pressure gave pale yellow oil that solidified on standing. This was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluent (30-80%) to give the title compound as a white solid (0.1677 g).

reactant | 2-[(Cyclohexylmethyl)oxy]-8-(methoxy)-9H-purin-6-amine trifluoroacetate salt | 0.28 g | FC(C(=O)O)(F)F.C1(CCCCC1)COC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 0.3957 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl) tetrahydro-2H-pyran | 0.14 g | BrCC1CCOCC1 | C6H11BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-[(Cyclohexylmethyl)oxy]-8-(methoxy)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 0.1677 g | C1(CCCCC1)COC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C19H29N5O3
